US07446118B2
6-Methoxy-4-(3-methylamino-1-phenyl-propyl)-1H-indole-3-carbonitrile CXXXII (90 mg) was prepared from 4-(3-hydroxy-1-phenyl-propyl)-6-methoxy-1H-indole-3-carbonitrile using the procedure described above for preparation of 5-(3-Methylamino-1-pheny-propyl)-1H-indole-3-carbonitrile LXVI. MS (M+H)=320.

reactant | 4-(3-hydroxy-1-phenyl-propyl)-6-methoxy-1H-indole-3-carbonitrile | OCCC(C1=CC=CC=C1)C1=C2C(=CNC2=CC(=C1)OC)C#N | C19H18N2O2
reactant | 5-(3-Methylamino-1-pheny-propyl)-1H-indole-3-carbonitrile | CNCCC(C1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C#N | C19H19N3
product | 6-Methoxy-4-(3-methylamino-1-phenyl-propyl)-1H-indole-3-carbonitrile | COC1=CC(=C2C(=CNC2=C1)C#N)C(CCNC)C1=CC=CC=C1 | C20H21N3O
